US06468995B1
Under nitrogen atmosphere, 1-methyl-5-hydroxymethylimidazole (2.52 g), diethylazodicarboxylate (4.26 ml) was added successively to a solution of triphenylphosphine (7.07 g) in THFe (50 ml) with ice cooling, while the reaction temperature was kept below 15 degree. After stirring for 1 hour at 0° C., 3.9 ml of thiobenzoic acid was added slowly. The mixture was poured into a mixture of ethyl acetate and aqueous sodium hydrogen carbonate. The aqueous layer was separated, the organic layer was washed with water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified on silica gel (eluent: dichloromethane-acetone) to afford 1-methyl-5-(benzoylthiomethyl)imidazole (993 mg).

reactant | 1-methyl-5-hydroxymethylimidazole | 2.52 g | CN1C=NC=C1CO | C5H8N2O
reactant | diethylazodicarboxylate | 4.26 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 7.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thiobenzoic acid | 3.9 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-5-(benzoylthiomethyl)imidazole | 993 mg | CN1C=NC=C1CSC(C1=CC=CC=C1)=O | C12H12N2OS
